US05420276
5'-O-(t-Butyldimethylsilyl)-3'-deoxyadenosine
To a stirred solution of 9.5 g (38.1 mmol) of 2',3'-anhydroadenosine (Robins, M. J.; Hansske, F; Low, N. H.; Park, J. I. Tetrahedron Lett. 1984, 367-370) in 114 mL of pyridine was added 11.5 g (76.2 mmol) of t-butyldimethylsilyl chloride. After 3.5 h at room temperature, an additional 5.75 g (38.1 mmol) of t-butyldimethylsilyl chloride was added. After a total of 4.25 h, the reaction mixture was diluted into 2 L of water and extracted with 3×500 mL of dichloromethane. The combined dichloromethane extracts were washed with one liter of saturated aqueous sodium bicarbonate, with 3×500 mL of water, and then dried over magnesium sulfate. Concentration under reduced pressure afforded 13.3 g of 5'-O-(t-butyldimethylsilyl)-2',3'-anhydroadenosine. To a stirred solution of 2.0 g (5.50 mmol) of 5'-O-(t-butyldimethylsilyl)-2',3'-anhydroadenosine in 55 mL of THF at 0° C. was added 22 mL (22 mmol) of a 1M solution of lithium triethyl borohydride in THF. The reaction mixture was then allowed to warm to room temperature. After 3 hours, the reaction mixture was recooled to 0° C. and then carefully treated with 4.0 mL of 5% aqueous acetic acid. The resulting mixture was diluted with 150 mL of EtOAc, washed with 3×100 mL of saturated aqueous NaCl, dried over magnesium sulfate, concentrated under reduced pressure, and then coevaporated with three portions of chloroform. Chromatography of the residue on silica gel with a 100:0 to 97:3 chloroform/methanol gradient afforded 1.8 g (90%) of the title compound: colorless glass; Rf =0.10 (silica gel 60 F-254, 0.25 mm, E. Merck (SG), 95:5 CHCl3 :MeOH); [α]D23 -47.8° (c 2.47, CHCl3); IR (CDCl3) 3480, 3415, 3320, 3165, 3125, 2960, 2935, 2860, 1635, 1595, 1575, 1470, 1415, 1330, 1290, 1255, 1210, 1135, 1090, 995 cm-1 ; 1H NMR (300 MHz, CDCl3, TMS=0.00 ppm) δ0.08, 0.09 (2s, 6H, (CH3)2Si), 0.88 (s, 9H, (CH3)3CSi), 2.10 (ddd, 1H, J=13.5 Hz, J'= 6.5 Hz, J"=4.0 Hz, 3'-H), 2.34 (ddd, 1H, J=13.5 Hz, J'=7.5 Hz, J"=6.0 Hz, 3'-H), 3.74 (dd, 1H, J=12.0 Hz, J'=3.0 Hz, 5'-H), 4.05 (dd, 1H, J=12.0 Hz, J'=3.0 Hz), 4.62 (dddd, 1H, J=7.5 Hz, J'=6.5 Hz, J"=J'"=3.0 Hz, 4'-H), 4.70 (ddd, 1H, J=6.0 Hz, J'=4.0 Hz, J"=2.5 Hz, 2'-H), 5.88 (bs, 1H, OH), 6.01 (d, 1H, J=2.5 Hz, 1'-H), 6.15 (bs, 2H, NH2), 8.30, 8.33 (2s, 2H, H-2, H-8); FAB MS, m/z 366 (M+H)+ , 136.

reactant | 5'-O-(t-butyldimethylsilyl)-2',3'-anhydroadenosine | 5.50 mmol, 2.0 g | [Si](C)(C)(C(C)(C)C)OC[C@@H]1[C@@H]2[C@H]([C@@H](O1)N1C=NC=3C(N)=NC=NC13)O2 | C16H25N5O3Si
reactant | lithium triethyl borohydride | C(C)[BH-](CC)CC.[Li+]
reactant | acetic acid | 4.0 mL | C(C)(=O)O | C2H4O2
solvent | THF | 55 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
product | 5'-O-(t-Butyldimethylsilyl)-3'-deoxyadenosine | 1.8 g, 90% | [Si](C)(C)(C(C)(C)C)OC[C@@H]1C[C@H]([C@@H](O1)N1C=NC=2C(N)=NC=NC12)O | C16H27N5O3Si
